US05635510
32.4 Synthesis of 1-tert-butoxycarbonyl-4-(pyridin-3-yl)-piperidine-4-carboxylic acid
Prepare by the method of example 20.7 using 4-(pyridin-3-yl)-piperidine-4-carboxylic acid hydrochloride (10 mmol) and di-tert-butyl dicarbonate (11 mmol). Purify to give the title compound.

reactant | 4-(pyridin-3-yl)-piperidine-4-carboxylic acid hydrochloride | 10 mmol | Cl.N1=CC(=CC=C1)C1(CCNCC1)C(=O)O
reactant | di-tert-butyl dicarbonate | 11 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 1-tert-butoxycarbonyl-4-(pyridin-3-yl)-piperidine-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C=1C=NC=CC1 | C16H22N2O4
